* ============================================================================
* OPA548 E/S dynamic loop investigation - project-grounded hybrid SPICE
* Purpose: test whether the real R10 + TLP185 + OPA548 E/S state dynamics +
*          non-ideal J1 PDN can NATURALLY create a persistent 100-110 kHz mode.
*
* No 100-110 kHz source is injected. No arbitrary U4B pole is added.
* U4B and the OPA548 electrical core use TI vendor macromodels.
* The only added behavioral block is the missing finite E/S state delay.
*
* Project-grounded board values retained:
*   U4B: OPA1656, R15=1k, R16=39k
*   R5=100R
*   U1: OPA548 follower, R7=57.6k
*   E/S: R10=100k (V7 fault board; sweepable), TLP185, R11=1k
*   J1: +/-5 V, C5/C6=470u, C7/C8=100n, C27=10p
*   Output snubber: R12=4.7R, C4=47n
*   AGND-PGND bridge: 5mR + 2nH proxy
*
* E/S hybrid model:
*   - physical E/S node receives parameterized internal source current IESVAL
*   - upper clamp approximates the ~3.5 V E/S internal clamp seen in TI macro
*   - hysteretic decision: OFF below VOFF, ON above VON, hold in between
*   - state transition time: TON / TOFF
*   - delayed state drives the official OPA548 E/S control pin
*
* This is a mechanism-search model, not a vendor-guaranteed shutdown model.
* ============================================================================

.include "../../../实际遇到的问题/opa548_shutdown_branch_spice_20260904/models/OPA1656.LIB"
.include "../../../实际遇到的问题/opa548_shutdown_branch_spice_20260904/models/OPA548.LIB"

.options method=gear maxord=2 reltol=2e-4 abstol=1e-11 vntol=1e-8 gmin=1e-12 rshunt=1e12

* ------------------------- sweepable parameters -----------------------------
.param TEMP=27 J1=5 J2=10
.param R10VAL=100k R5VAL=100
.param IESVAL=70u CES=2p
.param VOFF=0.8 VON=2.4 TON=3u TOFF=1u
.param CTR=1 IDARK=1u CCE=10p CISO=0.8p CLED=30p
.param TOPTO_ON=3u TOPTO_OFF=10u
.param RSRC=1m LSRC=1n
.param ESR_BULK=80m ESL_BULK=8n
.param ESR_CER=20m ESL_CER=1n
.param ENHIGH=0 EN_DELAY=100u EN_WIDTH=100u
.param GND_R=5m GND_L=2n

* --------------------------- AGND / PGND ------------------------------------
VAG AGND 0 0
RG3 AGND G3M {GND_R}
LG3 G3M PGND {GND_L}
RGD AGND DGND 5m

* --------------------------- U4 +/-10 V rails -------------------------------
VJ2P J2P AGND {J2}
RFBP J2P FBP 0.25
LFBP FBP APBEAD 240n
RAPS APBEAD APSM 3.5586m
LAPS APSM APU4 2.9988n
C15 APU4 AGND 100n
C11 APU4 AGND 1u

VJ2N J2N AGND {-J2}
RFBN J2N FBN 0.25
LFBN FBN ANBEAD 240n
RANS ANBEAD ANSM 49.93m
LANS ANSM ANU4 20.106n
C16 ANU4 AGND 100n
C10 ANU4 AGND 100n
C12 ANU4 AGND 1u

* --------------------------- healthy U4B -----------------------------------
* Only one 1 mV / 2 us startup kick. No periodic excitation.
VSTART TP7 AGND PULSE(0 1m 10u 20n 20n 2u 1)
XU4B TP7 U4N APU4 ANU4 U4O OPA1656

* Extracted feedback-route parasitics from the project diagnostic deck.
ROR16 U4O OR16M 5.380m
LOR16 OR16M R16O 4.1652n
COR16A U4O AGND 0.3471p
COR16B R16O AGND 0.3471p
RNR16 U4N NR16M 5.780m
LNR16 NR16M R16N 4.4694n
CNR16A U4N AGND 0.37245p
CNR16B R16N AGND 0.37245p
RNR15 U4N NR15M 6.723m
LNR15 NR15M R15N 5.6334n
CNR15A U4N AGND 0.46945p
CNR15B R15N AGND 0.46945p
R16 R16O R16N 39k
R15 R15N AGND 1k
CDNP14 R16O R16N 0.05p
CDNP37 R16O R16N 0.05p
CDNP38 R16O R16N 0.05p
CDNP39 R16O R16N 0.05p
CDNP40 R16O R16N 0.05p
CDNP41 R16O R16N 0.05p

* TP8 + real long route to R5 / OPA548 +IN.
RTP8 U4O TP8 1m
RTP8P TP8 AGND 10Meg
CTP8 TP8 AGND 10p
RVR5 U4O VR5M 59.938m
LVR5 VR5M R5V 35.2578n
CVR5A U4O AGND 2.93815p
CVR5B R5V AGND 2.93815p
R5 R5V OPA_P {R5VAL}

* --------------------------- non-ideal J1 PDN -------------------------------
* Bench source / cable series impedance is explicit and sweepable.
VJ1P_SRC J1P_IDEAL PGND {J1}
RJ1P J1P_IDEAL J1P_LIN {RSRC}
LJ1P J1P_LIN PWR_P {LSRC}

VJ1N_SRC J1N_IDEAL PGND {-J1}
RJ1N J1N_IDEAL J1N_LIN {RSRC}
LJ1N J1N_LIN PWR_N {LSRC}

* 470 uF bulk: ESR + ESL explicit.
LBULKP PWR_P C5L {ESL_BULK}
RBULKP C5L C5R {ESR_BULK}
C5 C5R PGND 470u
LBULKN PWR_N C6L {ESL_BULK}
RBULKN C6L C6R {ESR_BULK}
C6 C6R PGND 470u

* 100 nF ceramic: ESR + ESL explicit.
LCERP PWR_P C7L {ESL_CER}
RCERP C7L C7R {ESR_CER}
C7 C7R PGND 100n
LCERN PWR_N C8L {ESL_CER}
RCERN C8L C8R {ESR_CER}
C8 C8R PGND 100n
C27 PWR_P PWR_N 10p

* --------------------------- real TLP185 / R10 path -------------------------
* ENHIGH=0: optocoupler remains off.
* ENHIGH=3.3: one finite enable pulse is applied; period is 1 s so it occurs once.
VMCU_EN MCU_EN DGND PULSE(0 {ENHIGH} {EN_DELAY} 50n 50n {EN_WIDTH} 1)
R11 MCU_EN LED_A 1k
XU7 LED_A DGND PWR_P OPA_ES TLP185_DYNAMIC
+ params: CTR={CTR} IDARK={IDARK} CCE={CCE} CISO={CISO} CLED={CLED} \
+ TON={TOPTO_ON} TOFF={TOPTO_OFF}
R10 OPA_ES PWR_N {R10VAL}

* --------------------------- OPA548 + dynamic E/S ---------------------------
* Pin order: +IN -IN ILIM V- V+ OUT E/S STATE_MON
XU1 OPA_P OPA_N ILIM PWR_N PWR_P OPA_OUT OPA_ES ES_STATE
+ OPA548_ES_DELAYED params: IES={IESVAL} CES={CES} VOFF={VOFF} VON={VON} TON={TON} TOFF={TOFF}
R7 ILIM PWR_N 57.6k

* Unit follower + populated output network. J4/speaker is open here.
R46 OPA_OUT DRV 10m
RSH2 DRV SPK 0.1
R6 SPK OPA_N 10m
RSPK_OPEN SPK PGND 1G
R12 DRV SNUB_MID 4.7
C4 SNUB_MID PGND 47n

* SS56B rail clamps approximated only for junction capacitance / hard excursions.
.model DSS D(Is=5u N=1.05 Rs=0.02 Cjo=320p M=0.45 Vj=0.35 Bv=60 Ibv=1m)
D1 DRV PWR_P DSS
D2 PWR_N DRV DSS

* ============================================================================
* TLP185 dynamic surrogate
* - LED electrical input + CLED
* - phototransistor current follows LED current with finite on/off time
* - CCE and isolation capacitance are explicit
* ============================================================================
.subckt TLP185_DYNAMIC A K C E params: CTR=1 IDARK=1u CCE=10p CISO=0.8p CLED=30p TON=3u TOFF=10u
.model DLED_T D(Is=1e-14 N=1.8 Rs=3 Cjo={CLED} Vj=0.7 M=0.5 Bv=5 Ibv=5u)
DLED A K DLED_T
.param CPH=1n
CPH_STATE PH 0 {CPH}
RPH_LEAK PH 0 1G
* PH voltage numerically represents collector current in amperes (1 V == 1 A).
BPH 0 PH I={if(CTR*max(I(DLED),0)>V(PH),CPH*(CTR*max(I(DLED),0)-V(PH))/TON,CPH*(CTR*max(I(DLED),0)-V(PH))/TOFF)}
BPHOTO C E I={max(V(PH),0)}
IDARK_SRC C E DC {IDARK}
CCE_DEV C E {CCE}
CISO_DEV A E {CISO}
RISO_DEV A E 1e12
.ends TLP185_DYNAMIC

* ============================================================================
* OPA548 delayed-E/S wrapper
* - retains TI official OPA548 as the analog power-op-amp core
* - physical ES pin gets IES + capacitance + internal high clamp proxy
* - state variable is hysteretic and has finite TON/TOFF
* - delayed state drives official model's E/S control pin
* ============================================================================
.subckt OPA548_ES_DELAYED INP INN ILIM VNEG VPOS OUT ES ESMON
+ params: IES=70u CES=2p VOFF=0.8 VON=2.4 TON=3u TOFF=1u

* External-pin loading that is otherwise lost when the vendor E/S pin is isolated.
IES_PHYS VPOS ES DC {IES}
CES_PHYS ES VNEG {CES}
* Smooth high clamp near 3.5 V above V-. 10 ohm incremental resistance above clamp.
BES_CLAMP ES VNEG I={max((V(ES,VNEG)-3.5)/10,0)}
R_ES_LEAK ES VNEG 1G

* State 0=OFF, 1=ON. Hold state in the datasheet's undefined threshold region.
.param CST=1n
C_ES_STATE ESTATE 0 {CST}
R_ES_STATE ESTATE 0 1G
B_ES_STATE 0 ESTATE I={if(V(ES,VNEG)>=VON,CST*(1-V(ESTATE))/TON,if(V(ES,VNEG)<=VOFF,CST*(0-V(ESTATE))/TOFF,0))}

* Delayed state drives the official model from 0 to 3.5 V above V-.
B_ES_CTRL ESCTRL VNEG V={3.5*min(max(V(ESTATE),0),1)}
B_ES_MON ESMON 0 V={min(max(V(ESTATE),0),1)}

* Official TI OPA548 electrical core.
XCORE INP INN ILIM VNEG VPOS OUT ESCTRL OPA548
.ends OPA548_ES_DELAYED

* --------------------------- analyses ---------------------------------------
.control
set noaskquit
set wr_singlescale
set wr_vecnames
op
print v(OPA_ES) v(PWR_N) v(PWR_P) v(ES_STATE) v(TP8) v(OPA_OUT)
tran 0.1u 0.3m 0 0.1u
meas tran TP8_MAX MAX v(TP8) from=0.15m to=0.3m
meas tran TP8_MIN MIN v(TP8) from=0.15m to=0.3m
meas tran OPA_MAX MAX v(OPA_OUT) from=0.15m to=0.3m
meas tran OPA_MIN MIN v(OPA_OUT) from=0.15m to=0.3m
meas tran STATE_MAX MAX v(ES_STATE) from=0.15m to=0.3m
meas tran STATE_MIN MIN v(ES_STATE) from=0.15m to=0.3m
let TP8_PP=TP8_MAX-TP8_MIN
let OPA_PP=OPA_MAX-OPA_MIN
wrdata ../results_h12_official/v7_ideal_j1.dat v(TP8) v(U4O) v(OPA_OUT) v(OPA_ES) v(PWR_N) v(PWR_P) v(ES_STATE) i(VJ1P_SRC) i(VJ1N_SRC)
quit
.endc
.end
